US08440652B2
A solution of tert-butyl (3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)carba mate (736 mg, 2.3 mmol), 2-bromo-4H-thieno[2,3-c]pyrrol-6(5H)-one (500 mg, 2.3 mmol) and Pd(PPh3)4 (40 mg, 0.035 mmol) in n-BuOH (5 mL) and 2.0 M Na2CO3 (4.6 mL) was degassed and the resulting reaction mixture was refluxed at 110° C. for 2 h. Upon completion, the reaction was cooled to room temperature, filtered, and washed with MeOH (10 mL) and water (2×10 mL). The solid was dried under high vacuum yielding 2-(2-aminopyridin-3-yl)-4H-thieno[2,3-c]pyrrol-6(5H)-one (383 mg, 72% yield) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.40 (br. s., 1H), 8.00 (dd, J=5.0, 1.8 Hz, 1H), 7.52 (dd, J=7.3, 1.8 Hz, 1H), 7.36 (s, 1H), 6.66 (dd, J=7.4, 4.9 Hz, 1H), 5.99 (s, 2H), 4.32 (s, 2H); MS (EI) m/z=232.3 [M+1]+.

reactant | tert-butyl (3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)carba mate | 2.3 mmol, 736 mg | CC1(OB(OC1(C)C)C=1C(=NC=CC1)NC(OC(C)(C)C)=O)C | C16H25BN2O4
reactant | 2-bromo-4H-thieno[2,3-c]pyrrol-6(5H)-one | 2.3 mmol, 500 mg | BrC1=CC2=C(C(NC2)=O)S1 | C6H4BrNOS
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
solvent | Na2CO3 | 2.0 M, 4.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.035 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-aminopyridin-3-yl)-4H-thieno[2,3-c]pyrrol-6(5H)-one | 383 mg, 72% yield | NC1=NC=CC=C1C1=CC2=C(C(NC2)=O)S1 | C11H9N3OS
